US04791213
2-Hydroxy-3-(9-oxo-9H-thioxanthen-2-yloxy)-N,N,N-trimethyl-1-propanaminium chloride
Sodium (1.36 g) was reacted with absolute ethanol (120 mls) and 2-hydroxy-thioxanthone (11.4 g) (prepared by a method analogous to that of H. Christopher and S. Smiles. J.C.S., 1911, 99, 2050-2051) was added. To the stirred refluxing mixture (3-chloro-2-hydroxypropyl)trimethyl ammonium chloride (10.7 g) was added and the mixture refluxed overnight. After adjusting the pH to ca. 4 via the addition of a few drops of 2N isopropanolic hydrogen chloride solution, hot filtration followed by ice bath cooling of the filtrate and filtration gave the crude title compound which was washed with methanol and vacuum dried.

reactant | Sodium | 1.36 g | [Na] | Na
reactant | 2-hydroxy-thioxanthone | 11.4 g | OC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | C13H8O2S
reactant | (3-chloro-2-hydroxypropyl)trimethyl ammonium chloride | 10.7 g | [Cl-].ClCC(C[N+](C)(C)C)O
catalyst | hydrogen chloride | 2N, a few drops | Cl | ClH
solvent | ethanol | 120 mls | C(C)O | C2H6O
product | 2-Hydroxy-3-(9-oxo-9H-thioxanthen-2-yloxy)-N,N,N-trimethyl-1-propanaminium chloride | [Cl-].OC(C[N+](C)(C)C)COC1=CC=2C(C3=CC=CC=C3SC2C=C1)=O | InChI=1S/C19H22NO3S.ClH/c1-20(2,3)11-13(21)12-23-14-8-9-18-16(10-14)19(22)15-6-4-5-7-17(15)24-18;/h4-10,13,21H,11-12H2,1-3H3;1H/q+1;/p-1
